US04683333
Synthesis of 1,10-Bis(4-Aminophenoxy)decane Using a Single Reaction Vessel and Avoiding Recovery of Intermediates
Tetrabutylammonium bromide was used as the phase transfer catalyst. It was added to the contents of the flask immediately following addition of the second portion of the 1,10-dibromodecane. The amount of catalyst was 0.50 grams, or 2.5 parts per hundred parts of 4-acetamidophenol.

reactant | 1,10-dibromodecane | BrCCCCCCCCCCBr | C10H20Br2
reactant | 4-acetamidophenol | C(C)(=O)NC1=CC=C(C=C1)O | C8H9NO2
catalyst | Tetrabutylammonium bromide | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1,10-Bis(4-Aminophenoxy)decane | NC1=CC=C(OCCCCCCCCCCOC2=CC=C(C=C2)N)C=C1 | C22H32N2O2
